US07553848B2
7-tert-Butyl-isoquinoline-3-carboxylic acid (2,3-dihydro-benzo[1,4]dioxin-6-yl)-amide.
(The title product was prepared according to the procedure of E. D. Cox; T. J. Hagen; R. M. McKernan; J. M. Cook, Med. Chem. Rest. 1995, 5, 710-718). To a solution of (3S)-7-tert-butyl-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (2,3-dihydro-benzo[1,4]dioxin-6-yl)-amide hydrochloride, Example 10(d), (80 mg, 0.219 mmol) in toluene (10 mL) was added manganese dioxide (110 mg, 1.1 mmol). The reaction mixture was stirred at 70° C. under N2 for 1.5 h, filtered through a pad of Celite®, and the filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography (8:1 hexane/EtOAc) to give the title compound as an yellow solid. Mp 154-157° C. MS (ESI, pos. ion) m/z: 363 (M+1).

reactant | (3S)-7-tert-butyl-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (2,3-dihydro-benzo[1,4]dioxin-6-yl)-amide hydrochloride | Cl.O1CCOC2=C1C=CC(=C2)NC(=O)[C@H]2NCC1=CC(=CC=C1C2)C(C)(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 1.1 mmol, 110 mg | [O-2].[O-2].[Mn+4]
product | 7-tert-Butyl-isoquinoline-3-carboxylic acid (2,3-dihydro-benzo[1,4]dioxin-6-yl)-amide | O1CCOC2=C1C=CC(=C2)NC(=O)C=2N=CC1=CC(=CC=C1C2)C(C)(C)C | C22H22N2O3
